US08748415B2
Preparation of 1-(2-(((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-carboxyphenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-3a-yl)methylamino)acetyl)piperidine-4-carboxylic acid
The title compound was prepared following the procedure described below: To the solution of 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((2-(4-(ethoxycarbonyl)piperidin-1-yl)-2-oxoethylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid (12 mg, 0.016 mmol) in MeOH (3.00 ml) and dioxane (3 ml), sodium hydroxide (10 mg, 0.250 mmol) was added followed by 0.5 ml of water. The resulting suspension was stirred at 25° C. for 4 h. The solvent was removed in vacuo, the product was isolated by prep. HPLC as a white solid (5 mg, 41.4%). LCMS: m/e 713.5 (MH+), 2.37 min (method 3). 1H NMR (400 MHz, MeOD) δ ppm 7.95 (m, 2H), 7.27 (m, 2H), 5.32 (d, J=4.5 Hz, 1H), 4.76 (d, J=1.8 Hz, 1H), 4.66 (s, 1H), 4.29-4.46 (m, 1H), 4.09-4.25 (m, 2H), 3.64-3.85 (m, 1H), 3.17-3.32 (m, 2H), 3.05 (m, 1H), 2.87 (dd, J=12.8, 4.8 Hz, 1H), 2.67 (tt, J=10.8, 4.0 Hz, 1H), 2.49 (dt, J=10.9, 5.5 Hz, 1H), 2.07-2.29 (m, 2H), 1.85-2.07 (m, 4H), 1.67-1.85 (m, 8H), 1.43-1.67 (m, 9H), 1.36 (br. s., 2H), 1.32 (d, J=6.5 Hz, 2H), 1.24 (d, J=14.8 Hz, 1H), 1.13-1.20 (m, 4H), 1.11 (s, 3H), 1.04 (s, 3H), 0.99 (s, 3H), 0.98 (s, 3H).

reactant | 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((2-(4-(ethoxycarbonyl)piperidin-1-yl)-2-oxoethylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | 0.016 mmol, 12 mg | C(C)OC(=O)C1CCN(CC1)C(CNC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)O)C=C1)C)[C@@H](CC2)C(=C)C)=O | C47H68N2O5
reactant | sodium hydroxide | 0.250 mmol, 10 mg | [OH-].[Na+]
reactant | water | 0.5 ml | O | H2O
solvent | MeOH | 3.00 ml | CO | CH4O
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 1-(2-(((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-carboxyphenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-3a-yl)methylamino)acetyl)piperidine-4-carboxylic acid | C(=O)(O)C1=CC=C(C=C1)C=1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CC[C@@H]3[C@]2(CC1)C)[C@@H](CC5)C(=C)C)CNCC(=O)N5CCC(CC5)C(=O)O)C)C)(C)C | C45H64N2O5
